* NMOS Output Characteristics (Id-Vds) - Sky130
.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "/home/gnimm05/pdks/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* DUT: L and W are strictly in micrometers (NO 'u' suffix)
XM1 D G 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.0

* Voltage Sources
VDS D 0 0V
VGS G 0 0V

.control
  dc VDS 0 1.8 0.01 VGS 0.6 1.8 0.3
  let id = -I(VDS)
  wrdata nmos_output_data.txt id
.endc
.end